### PR TITLE
[Merged by Bors] - feat(RamificationInertia): add `ramificationIdx_algebra_tower'`

### PR DESCRIPTION
**Pull request by xroblot**
The result [Ideal.ramificationIdx_algebra_tower](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia/Basic.html#Ideal.ramificationIdx_algebra_tower) is stated in a very general situation whereas most of its applications should be when there is a tower of prime ideals like in [Ideal.inertiaDeg_algebra_tower](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia/Basic.html#Ideal.inertiaDeg_algebra_tower). 

This PR adds a version of `Ideal.ramificationIdx_algebra_tower` specialized to this case. The instances needed are stronger but there is no side condition. I believe that this corresponds to the more useful situation and thus I replaced all the use of  `Ideal.ramificationIdx_algebra_tower` by the new version even if that means having to adjust the hypotheses. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 1]
```diff
@@ -1023,6 +1023,18 @@ theorem ramificationIdx_algebra_tower [IsDedekindDomain S] [IsDedekindDomain T]
   rw [IsScalarTower.algebraMap_eq R S T] at hfg ⊢
   exact ramificationIdx_tower hg0 hfg hg
 
+theorem ramificationIdx_algebra_tower' [IsDedekindDomain S] [IsDedekindDomain T] [IsDomain R]
+    [Module.IsTorsionFree R S] [Module.IsTorsionFree S T] [Module.IsTorsionFree R T]
+    (p : Ideal R) (P : Ideal S) (Q : Ideal T) [P.IsPrime] [Q.IsPrime] [Q.LiesOver P]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean]: Both `[Module.IsTorsionFree R T]` and `[P.IsPrime]` are unnecessary:
```lean4
import Mathlib

variable {R S T : Type*} [CommRing R] [CommRing S] [CommRing T]
variable [Algebra R S] [Algebra S T] [Algebra R T] [IsScalarTower R S T]

example (P : Ideal S) (Q : Ideal T) [Q.IsPrime] [Q.LiesOver P] : P.IsPrime :=
  Ideal.over_def Q P ▸ Ideal.IsPrime.under S Q

example [IsDomain R] [IsDomain S] [Module.IsTorsionFree R S] [Module.IsTorsionFree S T] :
    Module.IsTorsionFree R T := by
  refine Module.IsTorsionFree.of_smul_eq_zero fun r m h ↦ ?_
  rwa [algebra_compatible_smul S, smul_eq_zero, FaithfulSMul.algebraMap_eq_zero_iff] at h
```
They might perhaps be reasonable as instances. (I didn't try to find the weakest possible assumption for them; one could perhaps generalize further.)

Comment (xroblot) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean]: Indeed, I removed them as hypotheses and inlined the proofs you provided. Thanks!

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 2]
```diff
@@ -1014,6 +1014,21 @@ theorem ramificationIdx_algebra_tower [IsDedekindDomain S] [IsDedekindDomain T]
   rw [IsScalarTower.algebraMap_eq R S T] at hfg ⊢
   exact ramificationIdx_tower hg0 hfg hg
 
+theorem ramificationIdx_algebra_tower' [IsDedekindDomain S] [IsDedekindDomain T] [IsDomain R]
+    [Module.IsTorsionFree R S] [Module.IsTorsionFree S T] (p : Ideal R) (P : Ideal S) (Q : Ideal T)
+    [Q.IsPrime] [Q.LiesOver P] [P.LiesOver p] :
+    ramificationIdx (algebraMap R T) p Q =
+      ramificationIdx (algebraMap R S) p P * ramificationIdx (algebraMap S T) P Q := by
+  by_cases hp : p = ⊥
+  · rw [hp, ramificationIdx_bot, ramificationIdx_bot, zero_mul]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean]:
```suggestion
  rcases eq_or_ne p ⊥ with rfl | hp
  · simp
```
This way, you can use the `rfl` trick and save rewriting/`simp`ing with `hp` in the trivial branch.

Comment (xroblot) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean]: Good point, except that I'm more a fan of `obtain` rather than `rcases` :)
